US07385059B2
A mixture of 4-nitro-3-pyrazolecarboxylic acid (4.98 g, 31.7 mmol), trans 4-aminocyclohexanol (3.65 g, 31.7 mmol), EDAC (6.68 g, 34.8 mmol) and HOBt (4.7 g, 34.8 mmol) in DMF (120 ml) was stirred at ambient temperature for 16 hours. The mixture was reduced in vacuo, the residue taken up in CH2Cl2 and washed successively with 5% citric acid, saturated aqueous sodium bicarbonate, water and brine. The product was found to be mainly in the citric acid wash, which was basified and extracted with EtOAc. The organic layer was dried over MgSO4, filtered and evaporated to give a white solid, which was triturated with CHCl3 to give 1.95 g of 4-nitro-1H-pyrazole-3-carboxylic acid 4-hydroxy-cyclohexylamide. (LC/MS: Rt 1.62, [M+H]+255).

reactant | 4-nitro-3-pyrazolecarboxylic acid | 31.7 mmol, 4.98 g | [N+](=O)([O-])C=1C(=NNC1)C(=O)O | C4H3N3O4
reactant | trans 4-aminocyclohexanol | 31.7 mmol, 3.65 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | EDAC | 34.8 mmol, 6.68 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 34.8 mmol, 4.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-nitro-1H-pyrazole-3-carboxylic acid 4-hydroxy-cyclohexylamide | 1.95 g | OC1CCC(CC1)NC(=O)C1=NNC=C1[N+](=O)[O-] | C10H14N4O4
